US05272162
β-[[[[4-[4-(aminoiminomethyl)phenyl]butyl]amino]carbonyl]amino]-3-pyridinepropanoic acid
ethyl β-[[[[4-[4-(aminoiminomethyl)phenyl]butyl]amino]carbonyl]amino]-3-pyridinepropanoate TFA (100 mg; 2 mmol), methanol (5ml), and 2N LiOH (5ml) were stirred for 30 min. The solution was acidified to pH=3 with 3N HCl and reduced to dryness on a rotary evaporator. The residue was dissolved in acetonitrile/water and purified by HPLC on a C-18 HPLC column (30cm×5cm). A gradient of 10 to 40% acetonitrile/water/ 0.05% TFA in 30 min. was used and the acid eluted at an acetonitrile concentration of 15%. Fractions containing the desired peak were lyophilized to give 70 mg of white solid. FAB-MS: MH+ =384.

reactant | ethyl β-[[[[4-[4-(aminoiminomethyl)phenyl]butyl]amino]carbonyl]amino]-3-pyridinepropanoate TFA | 2 mmol, 100 mg | OC(=O)C(F)(F)F.NN=CC1=CC=C(C=C1)CCCCNC(=O)NC(CC(=O)OCC)C=1C=NC=CC1
reactant | LiOH | 2N, 5ml | [Li+].[OH-]
reactant | HCl | 3N | Cl | ClH
solvent | methanol | 5ml | CO | CH4O
product | β-[[[[4-[4-(aminoiminomethyl)phenyl]butyl]amino]carbonyl]amino]-3-pyridinepropanoic acid | 70 mg | NN=CC1=CC=C(C=C1)CCCCNC(=O)NC(CC(=O)O)C=1C=NC=CC1 | C20H25N5O3
